US06117873
a2) 2,3-Dimethoxyquinoxaline-5-carbaldehyde
17 ml (188 mmol) of 2-nitropropane are added to a solution of 3.7 g (163 mmol) of sodium in 700 ml of methanol. After stirring for 5 minutes, 35.5 g (125.4 mmol) of solid 5-bromomethyl-2,3-dimethoxyquinoxaline are added. The mixture is heated to reflux for 1 hour, a homogeneous solution resulting. After cooling, the solution is concentrated under reduced pressure. The residue is taken up in ethyl acetate and 1N hydrochloric acid, the phases are separated and the organic phase is washed with water and brine, dried over sodium sulfate and concentrated. The title compound is isolated in the form of white crystals by crystallization from ethyl acetate. M.p. 137-140°; TLC (ethyl acetate/hexane 1:3): Rf =0.45.

reactant | 2-nitropropane | 188 mmol, 17 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium | 163 mmol, 3.7 g | [Na] | Na
reactant | 5-bromomethyl-2,3-dimethoxyquinoxaline | BrCC1=C2N=C(C(=NC2=CC=C1)OC)OC | C11H11BrN2O2
solvent | methanol | 700 ml | CO | CH4O
product | 2,3-Dimethoxyquinoxaline-5-carbaldehyde | COC1=NC=2C=CC=C(C2N=C1OC)C=O | C11H10N2O3
